US09227967B2
(4-Chlorophenyl)(pyrazin-2-yl)methanamine
Pyrazine-2-carbonitrile (10.5 g, 100 mmol) was dissolved in PhMe (100 mL) at 0° C. and 4-chlorophenyl magnesium bromide (100 ml, 1.0 M in Et2O, 100 mmol) was added portion-wise over 5 min. The reaction mixture was stirred for 6 h and NaBH4 (7.58 g, 201 mmol) and tBuOH (100 mL) were added. The reaction mixture was warmed to 60° C. for 18 h and quenched with 1 M aq NaOH solution. The aqueous layer was extracted with EtOAc and the combined organic layers were dried (MgSO4) and concentrated in vacuo. The residue was purified by flash chromatography (DCM:EtOH:NH3 200:8:1 to 50:8:1) to give the title compound as a brown oil (7.46 g, 34%). MS (ESI+) m/z=220.0 (M+H)+.

reactant | Pyrazine-2-carbonitrile | 100 mmol, 10.5 g | N1=C(C=NC=C1)C#N | C5H3N3
reactant | 4-chlorophenyl magnesium bromide | 100 mmol, 1.0 M, 100 ml | ClC1=CC=C(C=C1)[Mg]Br
reactant | NaBH4 | 201 mmol, 7.58 g | [BH4-].[Na+]
reactant | tBuOH | 100 mL | CC(C)(C)O | C4H10O
solvent | PhMe | 100 mL | C1(=CC=CC=C1)C | C7H8
product | (4-Chlorophenyl)(pyrazin-2-yl)methanamine | 7.46 g, 34% | ClC1=CC=C(C=C1)C(N)C1=NC=CN=C1 | C11H10ClN3
